US04234595
Procedure 71C. 5-BROMO-3-(2-METHYL-2-NITROPROPYL)INDOLE
5-Bromogramine, 60.0 g., 165 g. of 2-nitropropane, and 10.5 g. of sodium hydroxide pellets were caused to react under the conditions of Procedure 67C. The product was recovered as a dark syrup-like liquid from which the crystalline product was obtained by dissolving in IPr2O. The crystalline material was recrystallized from IPr2O to yield 48.6 g. of tan crystalline product, m.p. 106°-109°. The structure was confirmed by examination of the NMR spectrum.

reactant | 5-Bromogramine | CN(C)CC1=CNC2=C1C=C(C=C2)Br | C11H13BrN2
reactant | 2-nitropropane | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-BROMO-3-(2-METHYL-2-NITROPROPYL)INDOLE | BrC=1C=C2C(=CNC2=CC1)CC(C)([N+](=O)[O-])C | C12H13BrN2O2
